US05942532
A mixture of 4-fluorobenzaldehyde (2.0 g, 0.0161 mol), 4-tert-butylphenol (2.42 g, 0.161 mol), and K2CO3 (9.0 g, 0.065 mol) in DMF (50 mL) was heated at 80° C. After 6 h, the reaction mixture was filtered into ice/water and the product was extracted with ethyl acetate. The organic layer was washed with water, dried (MgSO4), concentrated and chromatographed with 1:1 hexane/ethyl acetate to give 3.9 g (95%) of 4-(4-tert-butylphenoxy)benzaldehyde.

reactant | 4-fluorobenzaldehyde | 0.0161 mol, 2.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-tert-butylphenol | 0.161 mol, 2.42 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | K2CO3 | 0.065 mol, 9.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-tert-butylphenoxy)benzaldehyde | 3.9 g, 95% | C(C)(C)(C)C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C17H18O2
